US04122119
To a solution of 600 g of sodium hydroxide in 490 g of water was added 980 g of mesityl oxide together with 520 g of prenyl chloride and 25 g of trimethylstearylammonium chloride, and the mixture was reacted in a water bath under stirring for 2 hours (The reaction temperature rose to 70° C.). The reaction mixture was poured into water and extracted with ethyl ether. The ethereal solution was washed with water and dried over anhydrous sodium sulfate. The ether was distilled off under reduced pressure and the residue (1250 g) was further distilled to recover the unreacted mesityl oxide. Thereupon, as higher-boiling products, 560 g of a 2.5:1 mixture of 3-isopropenyl-6-methyl-5-hepten-2-one and 3-isopropylidene-6-methyl-5-hepten-2-one (purity 96.4%) was obtained. Based on the purity of 83.71% for the prenyl chloride used, the yield of 3-isopropenyl-6-methyl-5-hepten-2-one was 59% (410 g) and that of 3-isopropylidene- 6-methyl-5-hepten-2-one was 19% (130 g).

reactant | sodium hydroxide | 600 g | [OH-].[Na+]
reactant | mesityl oxide | 980 g | O=C(C)C=C(C)C | C6H10O
reactant | prenyl chloride | 520 g | C(C=C(C)C)Cl | C5H9Cl
reactant | trimethylstearylammonium chloride | 25 g | [Cl-].CC(CCCCCCCCCCCCCCCCC[NH3+])(C)C
solvent | water | 490 g | O | H2O
product | 3-isopropylidene-6-methyl-5-hepten-2-one | C(C)(C)=C(C(C)=O)CC=C(C)C | C11H18O
